US08378104B2
4-(1-azetidin-3-yl-1H-pyrazol-4-yl)-2-thieno[2,3-c]pyridin-3-yl-furo[2,3-c]pyridin-7-ylamine
The title compound was prepared from 4-iodo-2-thieno[2,3-c]pyridine-3-yl-furo[2,3-c]pyridine-7-ylamine and tert-butyl 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate by a procedure analogous to Example 68 followed by deprotection by a procedure analogous to Example 64, Step B. 1H NMR (400 MHz, CD3OD): δ 9.29 (s, 1 H), 8.75 (s, 1 H), 8.63 (d, J=6.1 Hz, 1 H), 8.59 (d, J=6.1 Hz, 1 H), 8.26 (s, 1 H), 8.08 (s, 1H), 7.96 (s, 1H), 7.62 (s, 1H), 5.32 (m, 1H), 4.45 (m, 4H); MS (ESI): 389.18 [M+H]+; HPLC tR=0.25 min (HPLC: Analytical—2 min).

reactant | 4-iodo-2-thieno[2,3-c]pyridine-3-yl-furo[2,3-c]pyridine-7-ylamine | IC1=C2C(=C(N=C1)N)OC(=C2)C2=CSC1=CN=CC=C12 | C14H8IN3OS
reactant | tert-butyl 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CN(C1)C(=O)OC(C)(C)C)C | C17H28BN3O4
product | 4-(1-azetidin-3-yl-1H-pyrazol-4-yl)-2-thieno[2,3-c]pyridin-3-yl-furo[2,3-c]pyridin-7-ylamine | N1CC(C1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)C2=CSC1=CN=CC=C12 | C20H16N6OS
